US07713994B2
6-Bromo-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (156 mg, 0.50 mmole), N,N-dimethylformamide (1 mL) and 4-(4-Methyl-piperazin-1-yl)-phenylamine (96 mg, 0.50 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chlororform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo and treated with acetonitrile, filtered and dried to give a brown solid 110 mg (47%), mp 274-276° C.; MS (ESI): m/z 471.1, 473.1 (M+H).

reactant | (4E)-6-bromo-7-methoxy-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.50 mmole, 156 mg | BrC=1C=C2\C(\C(NC(C2=CC1OC)=O)=O)=C/OC | C12H10BrNO4
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.50 mmole, 96 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 110 mg, 47% | BrC=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C22H23BrN4O3
